US08012959B2
A mixture of 2.0 g of 2-chloro-4-{(3-methylphenyl)amino}pyrimidine-5-carboxamide, 1.25 g of 4-aminophenethyl alcohol, 1.99 ml of diisopropylethylamine and 10 ml of NMP was stirred overnight at 110° C. The reaction mixture was cooled down to room temperature and mixed with water and ethyl acetate, and the thus precipitated solid was collected by filtration and recrystallized (methanol) to obtain 560 mg of 2-{[4-(2-hydroxyethyl)phenyl]amino}-4-[(3-methylphenyl)amino]pyrimidine-5-carboxamide as pale yellow crystals.

reactant | 2-chloro-4-{(3-methylphenyl)amino}pyrimidine-5-carboxamide | 2.0 g | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C12H11ClN4O
reactant | 4-aminophenethyl alcohol | 1.25 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | diisopropylethylamine | 1.99 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NMP | 10 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-{[4-(2-hydroxyethyl)phenyl]amino}-4-[(3-methylphenyl)amino]pyrimidine-5-carboxamide | 560 mg | OCCC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C20H21N5O2
